US07776910B2
To a solution of 2-(4-bromo-2-methyl-phenyl)-4-hydroxy-butyronitrile (27.3 g, 0.1074 mol) in MeOH (750 mL) at 0° C. was added (BOC)2O (46.9 g, 0.2149 mol), followed by NiCl2.6H2O (2.55 g, 0.01074 mol) and sodium borohydride (27.83 g, 0.7359 mol). The mixture was stirred at room temperature for 24 hours, and diethylenetriamine (12 mL, 0.1074 mol) was added. The reaction mixture was stirred for 30 minutes, then solvent was evaporated under reduced pressure. The resulting crude material was partitioned between NaHCO3 (10% aqueous solution) and EtOAc. The organic phase was washed with water and brine; dried over Na2SO4, filtered, and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc, 6/4) to give 30.3 g (79% yield) of [2-(4-bromo-2-methyl-phenyl)-4-hydroxy-butyl]-carbamic acid tert-butyl ester.

reactant | 2-(4-bromo-2-methyl-phenyl)-4-hydroxy-butyronitrile | 0.1074 mol, 27.3 g | BrC1=CC(=C(C=C1)C(C#N)CCO)C | C11H12BrNO
reactant | (BOC)2O | 0.2149 mol, 46.9 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | sodium borohydride | 0.7359 mol, 27.83 g | [BH4-].[Na+]
reactant | diethylenetriamine | 0.1074 mol, 12 mL | NCCNCCN | C4H13N3
solvent | MeOH | 750 mL | CO | CH4O
product | [2-(4-bromo-2-methyl-phenyl)-4-hydroxy-butyl]-carbamic acid tert-butyl ester | 30.3 g, 79% yield | C(C)(C)(C)OC(NCC(CCO)C1=C(C=C(C=C1)Br)C)=O | C16H24BrNO3
